US04539423
The procedures of Example 11 were followed, except that ketene was introduced at the rate of 32.0 ml/min (1.43 mmole/min) and that triphenylphosphine (0.066 g, 0.25 mmole) was dissolved in the further added n-amyl nitrite (50 ml). The reaction proceeded smoothly for three hours, during which no deactivation of the catalyst was observed. The reaction product was analyzed by gas chromatography, revealing that n-di-amyl malonate (165.6 mmoles, 64.5%) and n-amyl acetate (32.9 mmoles, 12.8%) were obtained.

reactant | ketene | C=C=O | C2H2O
reactant | triphenylphosphine | 0.25 mmole, 0.066 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | n-amyl nitrite | 50 ml | CCCCCON=O | C5H11NO2
product | n-amyl acetate | 32.9 mmoles, 12.8% | CCCCCOC(=O)C | C7H14O2
